US07371777B2
N-Hydroxymethyl-4-propoxybenzamide
4-Propoxybenzamide, 2.02 g of barium hydroxide and 90 ml of 35% aqueous formaldehyde were heated to 80° C. When the solution had become almost transparent, it was filtrated hot. This solution was stored at 0° C. for two days, and 100 ml of water was added. The precipitated crystals were collected and dried, to give 17.0 g of the title compound.

reactant | 4-Propoxybenzamide | C(CC)OC1=CC=C(C(=O)N)C=C1 | C10H13NO2
reactant | barium hydroxide | 2.02 g | [OH-].[Ba+2].[OH-]
reactant | formaldehyde | 90 ml | C=O | CH2O
product | N-Hydroxymethyl-4-propoxybenzamide | 17.0 g | OCNC(C1=CC=C(C=C1)OCCC)=O | C11H15NO3
